US06667301B2
To a solution of 1 g (4.3 mmole) (4S,5S)-5-(4-tert-butylphenyl)-4-methyl-oxazolidin-2-one p in 10 mL N,N-dimethylformamide was added 5.2 mL (5.2 mmole) 1 M potassium tert-butoxide in tetrahydrofuran. To the resulting gel was added 0.4 mL (4.7 mmole) iodoethane. The reaction mixture was heated at 70° C. for 1 hr. Cold water (25 mL) was added and the mixture was extracted with 30 mL ethyl acetate. The organic phase was washed with two 10 mL portions water, dried (magnesium sulfate) and concentrated under reduced pressure. (4S,5S)-5-(4-tert-Butylphenyl)-4-methyl-3-ethyl-oxazolidin-2-one Q was isolated as a crystalline solid from ethyl acetate/hexane, 1.06 g. M+H=261.

reactant | (4S,5S)-5-(4-tert-butylphenyl)-4-methyl-oxazolidin-2-one | 4.3 mmole, 1 g | C(C)(C)(C)C1=CC=C(C=C1)[C@H]1[C@@H](NC(O1)=O)C | C14H19NO2
reactant | potassium tert-butoxide | 5.2 mmole, 1 M, 5.2 mL | CC(C)([O-])C.[K+]
reactant | iodoethane | 4.7 mmole, 0.4 mL | ICC | C2H5I
reactant | water | 25 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4S,5S)-5-(4-tert-Butylphenyl)-4-methyl-3-ethyl-oxazolidin-2-one | C(C)(C)(C)C1=CC=C(C=C1)[C@H]1[C@@H](N(C(O1)=O)CC)C | C16H23NO2
